US04093811
A solution of 48.6 g (0.2 mole) of 4-chloromethyl-5-methyl-2-phenylimidazole hydrochloride [see Cornforth & Huang, J. Chem. Soc., 731 (1948)] in 200 ml of DMSO is added (over 20 minutes) to a rapidly stirred solution of sodium cyanide, prepared by dissolving 29.4 g (0.6 mole) of sodium cyanide in 70 ml of water and adding 200 ml of DMSO, at 0° to 5° C. [slightly modified procedure of W. Schultze, J. Prakt. Chem. 19, 91-100 (1922)]. The reaction mixture is stirred in the cold for 2 hours and then poured onto a slight excess of cracked ice which causes a semicrystalline gum to separate (Crop A). The gum is quickly filtered off and to the filtrate is added sufficient aqueous sodium carbonate (10%) to give a volume of 2 liters. The mixture is allowed to stand overnight during which time a second crop (about 12-13 g) crystallizes (Crop B). Extraction of the mother liquor with ethyl acetate gives an aditional (about 2-3 g) yield (Crop C). Crop A is recrystallized from benzene-Norite B. Crop C is recrystallized from benzene. The resulting crystals are combined with Crop B. Repeated recrystallizations from benzene gives a pure product of 4-cyanomethyl-5-methyl-2-phenylimidazole, m.p., 132°-140° C. Treatment with a mineral acid, e.g., sulfuric, hydrobromic and the like, affords the corresponding acid addition salts.

reactant | 4-chloromethyl-5-methyl-2-phenylimidazole hydrochloride | 0.2 mole, 48.6 g | Cl.ClCC=1N=C(NC1C)C1=CC=CC=C1
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | sodium cyanide | 0.6 mole, 29.4 g | [C-]#N.[Na+]
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | 70 ml | O | H2O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 4-cyanomethyl-5-methyl-2-phenylimidazole | C(#N)CC=1N=C(NC1C)C1=CC=CC=C1 | C12H11N3
